US04042617
A solution of 9.7 g of 3-phenoxyacetophenone and 12.2 g of ethyl chloroacetate in 30 ml of ethyl ether was vigorously stirred, and 8.8 g of sodium ethoxide was gradually added thereto in a nitrogen stream at 5°-6° C. over a period of 1 hour. After stirring at 6° C. for 1 hour, at 25° C. for 1 hour and at refluxing temperature for 1 hour, the mixture was cooled and charged with ether and water, thereby effecting ether extraction. The ether layer was washed with water and then dried over anhydrous sodium sulfate. The ether was removed by distillation under reduced pressure. The residue was dissolved in 150 ml of butyl ether, and the solution was charged with 12 g of aluminum chloride and refluxed with stirring at 80° C. for 5 hours. After cooling, the mixture was charged with dilute hydrochloric acid and, after stirring for 20 minutes, the butyl ether layer was separated, and the aqueous layer was extracted with butyl ether. The extract was combined with the separated butyl ether layer, and the combined layer was successively washed with water, aqueous sodium bicarbonate solution and water, and then dried over anhydrous magnesium sulfate. The butyl ether was removed by distillation under reduced pressure, and the residue was purified by silica gel column chromatography to obtain 4.5 g of ethyl 2-hydroxy-3-(3-phenoxyphenyl)-3-butenoate. The yield was 46%.

reactant | 3-phenoxyacetophenone | 9.7 g | CC(=O)C1=CC(=CC=C1)OC2=CC=CC=C2 | C14H12O2
reactant | ethyl chloroacetate | 12.2 g | ClCC(=O)OCC | C4H7ClO2
reactant | sodium ethoxide | 8.8 g | [O-]CC.[Na+]
reactant | water | O | H2O
solvent | ethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
product | ethyl 2-hydroxy-3-(3-phenoxyphenyl)-3-butenoate | 4.5 g, yield was 46% | OC(C(=O)OCC)C(=C)C1=CC(=CC=C1)OC1=CC=CC=C1 | C18H18O4
